US04772600
N-[3-[(4-Fluorobenzoyl)amino]-2-pyridinyl]glycine ethyl ester
Under a nitrogen atmosphere, triethylamine (31.8 g, 0.315 mole) and 4-fluorobenzoyl chloride (50 g, 0.315 mole) were added simultaneously, dropwise, to a stirred and chilled solution of freshly prepared N-[[3-amino]-2-pyridinyl]glycine ethyl ester (0.33 mole) by palladium/carbon reduction of N-[[3-nitro]-2-pyridinyl]glycine ethyl ester, (75.3 g, 0.33 mole) in dry tetrahydrofuran (~800 ml). The reaction mixture was stirred at room temperature overnight and the solvent was evaporated under reduced pressure. The residue was partitioned between ethyl acetate (300 ml) and water (300 ml), the insoluble material was filtered off, the layers were separated and the aqueous layer was extracted again with ethyl acetate. The combined organic layer was washed three times with water, dried over magnesium sulfate, treated with charcoal, filtered and evaporated to give 76.8 g of crude solid (77% yield). A 6.8-g portion of the solid was recrystallized from isopropyl alcohol and water to give 5.63 g of title compound, mp 127° -128.5° C.

reactant | triethylamine | 0.315 mole, 31.8 g | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzoyl chloride | 0.315 mole, 50 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | N-[[3-amino]-2-pyridinyl]glycine ethyl ester | 0.33 mole | C(C)OC(CNC1=NC=CC=C1N)=O | C9H13N3O2
reactant | N-[[3-nitro]-2-pyridinyl]glycine ethyl ester | 0.33 mole, 75.3 g | C(C)OC(CNC1=NC=CC=C1[N+](=O)[O-])=O | C9H11N3O4
solvent | tetrahydrofuran | ~800 ml | O1CCCC1 | C4H8O
catalyst | palladium/carbon | [Pd] | Pd
product | N-[3-[(4-Fluorobenzoyl)amino]-2-pyridinyl]glycine ethyl ester | 5.63 g | C(C)OC(CNC1=NC=CC=C1NC(C1=CC=C(C=C1)F)=O)=O | C16H16FN3O3
